US07863446B2
Synthesis of 1-(2,6-dichlorophenyl)-3-{1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-t-butyl-1H-pyrazol-5-yl}urea
The solution of 3-t-butyl-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-1H-pyrazol-5-amine (0.23 mmol) in dichloromethane (3 ml) was treated with 2,6-dichlorophenyl isocyanate (0.056 g, 0.3 mmol) in the presence of triethylamine (0.05 ml), and the reaction was mixture was stirred at room temperature, overnight. Subsequently water (15 ml) was added to above and it was extracted with ethyl acetate (25 ml). The organic layer was evaporated and the crude material purified by column chromatography; elution with 1.5% of ethyl acetate in hexane yielded the title compound. 1H-NMR (CDCl3) δ: 0.86 (s, 9H), 6.58 (s, 1H), 7.02-7.05 (m, 3H), 7.14 (d, 2H), 7.24-7.33 (m, 8H), 8.43-8.44 (br, 1H, D2O exchangeable), 10.52 (br, 1H, D2O exchangeable). MS m/z: 625 (M+).

reactant | 3-t-butyl-1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-1H-pyrazol-5-amine | 0.23 mmol | C(C)(C)(C)C1=NN(C(=C1)N)C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F | C24H22F3N5
reactant | 2,6-dichlorophenyl isocyanate | 0.3 mmol, 0.056 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
reactant | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
reactant | water | 15 ml | O | H2O
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-(2,6-dichlorophenyl)-3-{1-[5,6-diphenyl-2-(trifluoromethyl)pyrimidin-4-yl]-3-t-butyl-1H-pyrazol-5-yl}urea | ClC1=C(C(=CC=C1)Cl)NC(=O)NC1=CC(=NN1C1=NC(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C(F)(F)F)C(C)(C)C | C31H25Cl2F3N6O
